Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest and back pain, transferred from OSH for type B aortic 
dissection
 
Major Surgical or Invasive Procedure:
None - scheduled readmission for surgery ___

 
History of Present Illness:
Ms. ___ is a ___ yo female with Marfan's syndrome who was
transferred from an OSH for management of Type B aortic
dissection. Patient states that she had sudden onset of back and
chest pain approximately 10 hours ago with associated dyspnea 
and
nausea. She said she felt it was difficult to walk and noticed
parasthesias of the RLE. Her parasthesias have decreased since
onset, though she still feels that her right leg is different.
Patient denies changes in vision, arm paraesthesias or weakness,
difficulty with speech, and abdominal pain. She currently denies
pain or parasthesias in her legs or feet. 

ROS:
(+) per HPI
(-) Denies pain, fevers chills, bleeding, easy bruising,
headache, dizziness, vertigo, weakness, paresthesias, nausea,
vomiting, chest pain, shortness of breath, cough, edema, urinary
frequency, urgency
 
Past Medical History:
Past Medical History:
Marfan's syndrome
Bilateral retinal detachments

Past Surgical History:
Bilateral eye surgery for retinal detachments
C-section

 
Social History:
___
Family History:
No known thrombophilic or bleeding disorders. 
 
Physical Exam:
ADMISSION PE:
Vitals: 97.6 71 145/74 20 99% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: Clear to auscultation b/l
ABD: Soft, nondistended, nontender
Ext: No ___ edema, RLE cool to touch compared to LLE
NEURO: Normal sensation and ___ motor function of bilateral ___

PULSE EXAM:
RUE: Palpable brachial, radial and ulnar pulses
LUE: Palpable brachial, radial and ulnar pulses

RLE: Palpable femoral pulse & Doppler signals in DP and ___
LLE: Palpable femoral, DP and ___ pulses

DISCHARGE PE:
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: Clear to auscultation b/l
ABD: Soft, nondistended, nontender
Ext: No ___ edema
NEURO: Normal sensation and ___ motor function of bilateral ___

PULSE EXAM:
RUE: Palpable brachial, radial and ulnar pulses
LUE: Palpable brachial, radial and ulnar pulses

RLE: Palpable femoral pulse & Doppler signals in DP and ___
LLE: Palpable femoral, DP and ___ pulses

 
Pertinent Results:
ADMISSION LABS:
___ 02:49AM BLOOD WBC-15.9* RBC-3.73* Hgb-11.4 Hct-34.9 
MCV-94 MCH-30.6 MCHC-32.7 RDW-11.9 RDWSD-41.1 Plt ___
___ 02:49AM BLOOD Neuts-91.1* Lymphs-5.4* Monos-2.8* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-14.47* AbsLymp-0.85* 
AbsMono-0.44 AbsEos-0.01* AbsBaso-0.03
___ 02:49AM BLOOD ___ PTT-24.6* ___
___ 02:49AM BLOOD Glucose-107* UreaN-19 Creat-0.6 Na-139 
K-3.8 Cl-106 HCO3-20* AnGap-17
___ 02:49AM BLOOD cTropnT-<0.01
___ 02:49AM BLOOD Calcium-8.2* Phos-2.7 Mg-1.7
___ 02:17AM BLOOD ALT-21 AST-23 AlkPhos-54 Amylase-32 
TotBili-0.4

DISCHARGE LABS:

___ 05:40AM BLOOD WBC-8.4 RBC-3.62* Hgb-11.1* Hct-33.5* 
MCV-93 MCH-30.7 MCHC-33.1 RDW-12.5 RDWSD-41.9 Plt ___
___ 05:40AM BLOOD Glucose-92 UreaN-10 Creat-0.8 Na-137 
K-3.7 Cl-102 HCO3-23 AnGap-16

IMAGES:
___ CTA TORSO (OSH)
Type B dissection extending into bilateral common iliac arteries
with true lumen feeding renal and visceral segments. 

___ CTA ___
1. Aortic dissection flap extends to the left common iliac 
artery and right common iliac and proximal right internal iliac 
artery. 
2. Heterogeneous opacification of the right mid and distal 
superficial 
femoral, popliteal artery and posterior tibial, anterior tibial, 
and peroneal arteries as well as non opacification of the 
arteries distally.  The heterogeneous opacification on the 
arterial phase could be secondary to altered flow dynamics, 
however there is no opacification seen of the arteries distal to 
the distal tibia.  A dissection flap is less likely. 

___ CTA Chest
1.  Stable appearance of known type B dissection without 
evidence of 
intramural hematoma or other concerning change. 
2.  Stable aneurysmal dilatation of the ascending aorta since 
the prior study from ___. 
3.  Small nonhemorrhagic left pleural effusion with left basilar 
atelectasis. 

___ CTA Torso
1. Type B thoracic aortic dissection extends to bifurcation of 
internal and external iliac arteries bilaterally. True lumen is 
more collapsed compared to ___. 
2. Right external iliac artery arises from the true lumen, which 
is more 
collapsed than before. Right external artery in its distal 
branches are 
smaller in caliber and hypoenhancing compared to the left. 
3. Enlarged left adrenal gland is likely an adenoma. 
4. Multiple foci of wedge-shaped hypoattenuation in the left 
renal cortex are likely scarring/infarct. 

___ ABIs/PVRs
Bilateral lower extremity ABIs, Doppler waveforms and PVRs were 
performed at rest.
Right:
Right ABI is 0.64/0.57 ___.  Right great toe pressure is 58 mm 
Hg.  Doppler waveforms are monophasic at all levels on right 
without any degradation distally.  Pulse volume recordings are 
similar late breast at all levels suggesting a predominance of 
aortoiliac occlusive disease.
Left:
The left ABI is 1.1, 1.2 at ___.  Doppler waveforms are 
multiphasic with
normal pulse volume recordings at all levels.

___ Echo
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF = 60%). Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The ascending 
aorta is moderately dilated. No dissection of the ascending 
aorta seen. The number of aortic valve leaflets cannot be 
determined. The aortic valve leaflets are mildly thickened (?#). 
There is no aortic valve stenosis. Mild (1+) aortic 
regurgitation is seen. There is borderline/mild posterior 
leaflet mitral valve prolapse. A late systolic jet of Mild (1+) 
mitral regurgitation is seen. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 
 
Brief Hospital Course:
Ms. ___ is a ___ who was transferred from an OSH for type B 
aortic dissection. She was admitted to the ICU for close 
monitoring and stabilization of her BP. Her ___ imaging also 
revealed concern for thrombus in her RLE. Patient was started on 
heparin drip. On HD4, she was off IV BP meds and was transferred 
to the floor. On HD5, she began to have chest pressure with 
corresponding BP in 140s. BP was controlled, pain resolved and 
repeat imaging did not show change from previous CTA. Patient 
continued to have intermittent discomfort/pain associated with 
BPs>125. Concern for symptomatic dissection, cardiac surgery was 
reconsulted to evaluate for repair of her aortic root and 
dissection.

During her hospital stay, she also began to have abdominal pain 
with eating solid food. Repeat CT torso revealed decreased true 
lumen in the abdomen. She was able to tolerate a full liquid 
diet, with intermittent severe abdominal pain with intake of 
solid food. Discussions regarding the utility of cardiac surgery 
vs vascular surgery (aortic fenestration) were discussed. 
Ultimately, the patient was scheduled for an aortic fenestration 
procedure on ___. She elected to go home until that time, but 
was instructed to return if she experienced severe pain, nausea, 
vomiting, chest pain, shortness of breath, extremity 
pain/temperature change/change in sensation/motor capabilities.
 
Medications on Admission:
None
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN headache 
2. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3
3. Atorvastatin 10 mg PO QPM 
RX *atorvastatin 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3
4. Calcium Carbonate 500 mg PO QID:PRN heart burn 
5. Labetalol 600 mg PO TID 
RX *labetalol 300 mg 2 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*3
6. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*3
7. Senna 8.6 mg PO BID:PRN constipation 
8. Valsartan 80 mg PO DAILY 
RX *valsartan 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Marfan's Syndrome
Type B aortic dissection
Right lower extremity pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted to ___ for chest pain, that 
was found to be due to a dissection of your aorta, the large 
blood vessel that runs from your heart to your abdominal organs 
and legs. Management of this condition is maintaining low blood 
pressure and heart rate. You were started on new medications to 
help your blood pressure remain under 120 mmHg.

You should continue to check your blood pressures daily and 
follow-up closely with your PCP for adjustments of your 
medications, as needed.

You were also evaluated by the cardiothoracic surgeon. There was 
discussion about fixing the dissection of your aorta, and 
ultimately it was decided that you would benefit from an aortic 
fenestration procedure. This procedure helps blood get to the 
important arteries branching off of your aorta, such as the 
artery to your bowels.

Sincerely, 
Your ___ Care Team
 
Followup Instructions:
___